US05821246
Using an analogous procedure to that described in Example 1, 6-acetoxy-4-chloro-7-methoxyquinazoline, hydrochloride salt, was reacted with 5-amino-2-tolyl 2-pyridylmethyl ether to give 6-acetoxy-7-methoxy-4-[3-methyl-4-(2-pyridylmethoxy)anilino]quinazoline in 60% yield;

reactant | 6-acetoxy-4-chloro-7-methoxyquinazoline, hydrochloride salt | Cl.C(C)(=O)OC=1C=C2C(=NC=NC2=CC1OC)Cl
reactant | 5-amino-2-tolyl 2-pyridylmethyl ether | N1=C(C=CC=C1)COC=1C(=CC(=CC1)N)C | C13H14N2O
product | 6-acetoxy-7-methoxy-4-[3-methyl-4-(2-pyridylmethoxy)anilino]quinazoline | 60% yield | C(C)(=O)OC=1C=C2C(=NC=NC2=CC1OC)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)C | C24H22N4O4
